US06831106B1
(b) Ethyl 3′-[3,4-bis(benzoyloxymethyl)benzyloxy]biphenyl-3-carboxylate
In a manner similar to that of Example 1(i), by reaction of 1 g (4.1 mmol) of ethyl 3′-hydroxybiphenyl-3-carboxylate with 1.98 g (4.5 mmol) of 3,4-bis(benzoyloxymethyl)benzyl bromide, 2.1 g (85%) of ethyl 3′-[3,4-bis(benzoyloxymethyl)benzyloxylbiphenyl-3-carboxylate are obtained.

reactant | ethyl 3′-hydroxybiphenyl-3-carboxylate | 4.1 mmol, 1 g | OC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)OCC | C15H14O3
reactant | 3,4-bis(benzoyloxymethyl)benzyl bromide | 4.5 mmol, 1.98 g | C(C1=CC=CC=C1)(=O)OCC=1C=C(CBr)C=CC1COC(C1=CC=CC=C1)=O | C23H19BrO4
reactant | 3,4-bis(benzoyloxymethyl)benzyloxylbiphenyl-3-carboxylate | C(C1=CC=CC=C1)(=O)OCC1(C(C(=CC=C1COC(C1=CC=CC=C1)=O)C1=CC=CC=C1)OCC1=CC=CC=C1)C(=O)[O-]
product | Ethyl 3′-[3,4-bis(benzoyloxymethyl)benzyloxy]biphenyl-3-carboxylate | C(C1=CC=CC=C1)(=O)OCC=1C=C(COC=2C=C(C=CC2)C2=CC(=CC=C2)C(=O)OCC)C=CC1COC(C1=CC=CC=C1)=O | C38H32O7
